US06184244B2
N-[(1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid
Treatment of N-[(1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester (120 mg, 0.20 mmol) with TFA as described in Example 80 gave the titled product (104 mg, 95%) as a white powder. MS C26H25F4N3O6, [M+Na]+ =574, [M−H]− =550.

reactant | N-[(1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 0.20 mmol, 120 mg | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C30H33F4N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[(1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid | 104 mg, 95% | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C26H25F4N3O6
